US09422279B2
To a solution of (5-phenyl-3,6-dihydro-2H-pyran-4-yl)methanol (360 mg, 1.89 mmol) in DCM (6 mL) was added dibromotriphenylphosphorane (880 mg, 2.08 mmol) at room temperature, after stirring for 30 min, it was diluted with DCM, organic layer was washed with Sat. NaHCO3, brine, dried and concentrated to give crude product, which was purified by column(Hexanes/EtOAc=9:1) to give 4-(bromomethyl)-5-phenyl-3,6-dihydro-2H-pyran (380 mg).

reactant | (5-phenyl-3,6-dihydro-2H-pyran-4-yl)methanol | 1.89 mmol, 360 mg | C1(=CC=CC=C1)C1=C(CCOC1)CO | C12H14O2
reactant | dibromotriphenylphosphorane | 2.08 mmol, 880 mg | BrP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C18H15Br2P
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | 4-(bromomethyl)-5-phenyl-3,6-dihydro-2H-pyran | 380 mg | BrCC=1CCOCC1C1=CC=CC=C1 | C12H13BrO
